US06451740B2
3.02 g of N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide was dissolved in 20 ml of N,N-dimethylformamide, then, 1.5 g of potassium carbonate was added, and the mixture was stirred for 1 hour at room temperature. Then, 1.6 g of methyl bromoacetate was added at room temperature. The mixture was stirred for 2 hours under the same condition, poured into water, extracted with ethyl acetate, and the organic layer was washed with dilute hydrochloric acid, washed with water, dried over magnesium sulfate and concentrated, and the resulted crystal was washed with t-butyl methyl ether to obtain 3.01 g of methyl [2-(5-acetylamino-4-fluoro-2-nitrophenoxy)phenoxy]acetate.

reactant | N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide | 3.02 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=C(C=CC=C1)O)NC(C)=O | C14H11FN2O5
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.6 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl [2-(5-acetylamino-4-fluoro-2-nitrophenoxy)phenoxy]acetate | 3.01 g | C(C)(=O)NC=1C(=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-])F | C17H15FN2O7
